US04604390
2-(5-Chloro-2-nitrophenoxy)-4-methoxybenzoic acid, methyl ester
To a stirred solution of 15 g of methyl 2-hydroxy-4-methoxy-benzoate in 185 ml of dimethylformamide under argon was added 3.63 g of a 60% dispersion of sodium hydride in oil. To this slurry was added 12.35 g of sodium iodide, 15.69 g of copper(I)-iodide, and 0.525 g of copper powder. The mixture was heated for 15 minutes at 85° C. and 17.4 g of 2,4-dichloronitrobenzene was added. After 48 hours at 85° C., the reaction was cooled to 25° C. and methanol was added. The reaction was filtered and the filtrate was concentrated in vacuo to about 50 ml then diluted with 150 ml of ethylacetate. The solution was washed with a 20% aqueous solution of sodium thiosulfate and the organic portion was separated and dried over sodium sulfate. The solvent was evaporated to leave a tan solid. Recrystallization from ethyl acetate gave the title compound, mp 121°-123° C.

reactant | methyl 2-hydroxy-4-methoxy-benzoate | 15 g | OC1=C(C(=O)OC)C=CC(=C1)OC | C9H10O4
reactant | sodium hydride | [H-].[Na+]
reactant | sodium iodide | 12.35 g | [I-].[Na+]
reactant | 2,4-dichloronitrobenzene | 17.4 g | ClC1=C(C=CC(=C1)Cl)[N+](=O)[O-] | C6H3Cl2NO2
solvent | dimethylformamide | 185 ml | CN(C=O)C | C3H7NO
catalyst | copper(I)-iodide | 15.69 g | [Cu]I
catalyst | copper | 0.525 g | [Cu] | Cu
solvent | methanol | CO | CH4O
product | 2-(5-Chloro-2-nitrophenoxy)-4-methoxybenzoic acid, methyl ester | ClC=1C=CC(=C(OC2=C(C(=O)OC)C=CC(=C2)OC)C1)[N+](=O)[O-] | C15H12ClNO6
